US07683079B2
Step B]: rac-4-Amino-1-benzyl-piperidine-3-carboxylic acid ethyl ester
Amino-1-benzyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester BH3 salt was heated in ethanol with NaOH 25%. After 72 h at 50° C. the mixture was cooled, washed with water/ice and extracted with AcOEt. The extract was washed with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave an yellow oil. To a suspension of 4-amino-1-benzyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester (21 g) in 200 ml THF was added 50 ml TFA at 10° C. under an argon atmosphere. After stirring for 15 min at 0° C., NaBH4 (6.43 g) was added over a period of 75 min at 10° C. The mixture was stirred for additional 90 min at 0° C. After adding 100 ml NH4Cl saturated, the solution was extracted two times with CH2Cl2. The combined extracts were washed with water/ice and brine and dried over sodium sulfate. Evaporation of the solvent gave a yellow oil of the title compound which was taken for the next step without purification

reactant | Amino-1-benzyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | COC(=O)C=1C(N(CCC1)CC1=CC=CC=C1)N | C14H18N2O2
reactant | NaOH | [OH-].[Na+]
reactant | 4-amino-1-benzyl-1,2,5,6-tetrahydro-pyridine-3-carboxylic acid methyl ester | 21 g | COC(=O)C=1CN(CCC1N)CC1=CC=CC=C1 | C14H18N2O2
reactant | TFA | 50 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaBH4 | 6.43 g | [BH4-].[Na+]
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | ethanol | C(C)O | C2H6O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | rac-4-Amino-1-benzyl-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1N)CC1=CC=CC=C1 | C15H22N2O2
